US07745641B2
In a similar manner to Step 2 of Reference Example 1, 4-(tert-butyldimethylsilyloxy)indole (1.53 g, 6.23 mmol) was treated with di-tert-butyldicarbonate (2.15 mL, 9.36 mmol) and DMAP (7.60 mg, 0.0624 mmol), then the residue was purified by flash column chromatography (hexane/ethyl acetate=10/1) to obtain 1-(tert-butoxycarbonyl)-4-(tert-butyldimethylsilyloxy)indole (2.17 g, 99%).

reactant | 4-(tert-butyldimethylsilyloxy)indole | 6.23 mmol, 1.53 g | [Si](C)(C)(C(C)(C)C)OC1=C2C=CNC2=CC=C1 | C14H21NOSi
reactant | di-tert-butyldicarbonate | 9.36 mmol, 2.15 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.0624 mmol, 7.60 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(tert-butoxycarbonyl)-4-(tert-butyldimethylsilyloxy)indole | 2.17 g, 99% | C(C)(C)(C)OC(=O)N1C=CC2=C(C=CC=C12)O[Si](C)(C)C(C)(C)C | C19H29NO3Si
